US04835304
(2,4,6-triiodo-3-bromo-phenyl)-2,2,3,4,4-pentafluoro-3,4-dibromobutyrate
20.3 grams of 3-bromo-2,4,6-triiodophenol (m.p. 155°-157°C.) were dissolved in 50 ml of pyridine. 13.0 grams of 2,2,3,4,4-pentafluoro-3,4-dibromo-butyryl chloride were added dropwise through a dropping funnel with stirring. The mixture was stirred overnight at room temperature. The mixture was washed in a separatory funnel twice with 250 ml of DI water, then filtered through a column of silica and the solvent evaporated. The material was then chromatographed on a column of silica using FREON 113 (trichlorotrifluroethane) as eluent. The sample (25 grams), which slowly crystallized at room temperature, was shown to be pure ester (97%) by gc/ms. It is suitable for use as a fluid above its melting point of 56°-57°C. m/e (chemical ionization) 129 (21%, CF2Br); 131 (100%, CF2Br and C3F5); 140 (13%, C5HBr); 142 (13%, C5HBr); 188 (14%, C5HI); 267, 269 (11%, 10% C5BrIH); 315 (4%, C5I2H); 422, 424 (6%, 7%, C6I2HBrO); 549, 551 (5%, 4%, C6I3HBrO); 866, 868, 870, 872 (0.2%, 0.6%, 0.4%, 0.2%, molecular ion). I.R. ν=3080 (Ar-H); 1800 (C=O); 1550, 1520 (Ar C=C).

reactant | 3-bromo-2,4,6-triiodophenol | 20.3 grams | BrC=1C(=C(C(=CC1I)I)O)I | C6H2BrI3O
reactant | 2,2,3,4,4-pentafluoro-3,4-dibromo-butyryl chloride | 13.0 grams | FC(C(=O)Cl)(C(C(Br)(F)F)(Br)F)F | C4Br2ClF5O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | (2,4,6-triiodo-3-bromo-phenyl)-2,2,3,4,4-pentafluoro-3,4-dibromobutyrate | IC1=C(C(=CC(=C1Br)I)I)OC(C(C(C(Br)(F)F)(Br)F)(F)F)=O | C10HBr3F5I3O2
